** sch_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/integrator/xschem/integrator_TB_TRAN.sch
**.subckt integrator_TB_TRAN
V1 VDD 0 1.8
V2 VSS 0 0
V3 Vcm 0 0.9
V4 Vinp Vcm 0.5
V5 Vinn Vcm -0.5
Vrst RST 0 3.6
Vp1 P2 0 3.6
Vp2 P1 0 3.6
C1 Voutn 0 1p
C2 Voutp 0 1p
x1 RST Vinp VDD P1 Voutp Vcm Voutn P2 VSS Vinn VDD 0 integrator
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical



.control
save all

** Define transient signals
let Fclk = 5e6
let Tclk = 1/Fclk
let trise = 0.01*Tclk
let tfall = 0.01*Tclk
let tdelay = 0.02*Tclk
let tonp1 = 0.5*Tclk - trise - tfall
let tonp2 = 0.45*Tclk - trise - tfall

** Define transient params
let tstop = 20*Tclk
let tstep = 0.0001*Tclk

** Set sources
alter @Vrst[PULSE] = [ 0 3.6 0 $&trise $&tfall $&Tclk $&tstop ]
alter @Vp1[PULSE] = [ 3.6 0 0 $&trise $&tfall $&tonp1 $&Tclk ]
alter @Vp2[PULSE] = [ 0 3.6 $&tdelay $&trise $&tfall $&tonp2 $&Tclk ]

** Sims
** op
tran $&tstep $&tstop

** plot voutp-voutn vinp-vinn
*plot rst/30 p1/30 p2/30 x1.vsp-x1.fransiscop voutp-x1.vtp
plot x1.vsp-x1.fransiscop voutp-x1.vtp x1.vsn-x1.fransiscon voutn-x1.vtn
*plot x1.x1.x1.vout2p x1.x1.x1.vout2n
plot (voutp+voutn)/2 voutp voutn vcm


*write integrator_TB_TRAN.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  DS_modulator/integrator/xschem/integrator.sym # of pins=12
** sym_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/integrator/xschem/integrator.sym
** sch_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/integrator/xschem/integrator.sch
.subckt integrator RST Vinp VDD Phi_1 Voutp Vcm Voutn Phi_2 VSS Vinn Vfp Vfn
*.iopin Vinp
*.iopin Vcm
*.iopin Vinn
*.iopin Voutp
*.iopin Voutn
*.iopin RST
*.iopin VDD
*.iopin Phi_1
*.iopin VSS
*.iopin Phi_2
*.iopin Vfp
*.iopin Vfn
XM1 Voutp RST Vtp VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Vtp P2 net1 VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 Vsp P1 Vinp VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 Vsp P2 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 FransiscoP P1 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 Voutn RST Vtn VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 Vtn P2 net2 VSS nfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 Vsn P1 Vinn VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 Vsn P2 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 FransiscoN P1 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
C5 FransiscoP Vsp 0.4p
C6 Voutp Vtp 4p
C1 FransiscoN Vsn 0.4p
C2 Voutn Vtn 4p
x1 P1 P2 VDD VSS net1 Voutp Vcm Voutn net2 ring_amp_diff
C3 FransiscoP Vfx_p 0.4p
XM11 Vfx_p P1 net3 VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM12 Vfx_p P2 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 Vfx_n P1 net4 VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
C4 FransiscoN Vfx_n 0.4p
XM14 Vfx_n P2 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
x4 VDD VSS Phi_1 P1 doubler
x5 VDD VSS Phi_2 P2 doubler
XM15 net3 Vfp VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM16 net3 Vfp VDD VDD pfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM17 net4 Vfn VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM18 net4 Vfn VDD VDD pfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM19 net1 P2 FransiscoP VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM20 net1 P1 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM21 net2 P2 FransiscoN VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM22 net2 P1 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  DS_modulator/ring_amp_diff/xschem/ring_amp_diff.sym # of pins=9
** sym_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/ring_amp_diff/xschem/ring_amp_diff.sym
** sch_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/ring_amp_diff/xschem/ring_amp_diff.sch
.subckt ring_amp_diff P1 P2 VDD VSS Vinp Voutp Vcm Vuotn Vinn
*.iopin P1
*.iopin P2
*.iopin VDD
*.iopin VSS
*.iopin Vcm
*.iopin Vinp
*.iopin Vinn
*.iopin Voutp
*.iopin Vuotn
XM1 Voutp P2 net3 VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 net3 P1 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 Voutn P2 net1 VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net1 P1 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 Voutp P2 net4 VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 net4 P1 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 Voutn P2 net2 VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 net2 P1 Vcm VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 Vout1n P1 Vxp VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 Vout1p P1 Vxn VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
C1 Vinp net1 0.1p
C2 Vinp net4 0.1p
C3 net3 Vinn 0.1p
C4 net2 Vinn 0.1p
C5 Vinn Vxn 0.1p
C6 Vinp Vxp 0.1p
x1 VDD Vxp Voutp Vout1n VSS ring_amp
x2 VDD Vxn Vuotn Vout1p VSS ring_amp
.ends


* expanding   symbol:  DS_modulator/doubler/xschem/doubler.sym # of pins=4
** sym_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/doubler/xschem/doubler.sym
** sch_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/doubler/xschem/doubler.sch
.subckt doubler VDD VSS CLK CLKD
*.iopin VDD
*.iopin VSS
*.iopin CLK
*.iopin CLKD
XM4 Vcd_down CLKb VDD VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 CLKD CLKb VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 CLKD CLKb Vcd_up Vcd_up pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Vcd_up CLKD VDD Vcd_up pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 CLKb CLK VDD VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 CLKb CLK VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 Vcd_up Vcd_down Vcd_up Vcd_up pfet_03v3 L=10u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM1 Vcd_down CLKb VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  DS_modulator/ring_amp/xschem/ring_amp.sym # of pins=5
** sym_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/ring_amp/xschem/ring_amp.sym
** sch_path: /foss/designs/chipa2026_gf180mcu_DeltaSigma/designs/DS_modulator/ring_amp/xschem/ring_amp.sch
.subckt ring_amp VDD Vin Vout Vout1 VSS
*.iopin VDD
*.iopin VSS
*.iopin Vin
*.iopin Vout
*.iopin Vout1
XM1 Vout1 Vin VSS VSS nfet_03v3 L=0.28u W=0.66u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 Vout2p Vout2p Vout2n VSS nfet_03v3 L=0.35u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 Vout Vout2n VSS VSS nfet_03v3 L=0.28u W=0.65u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 Vout2n Vout2n Vout2p Vout2p pfet_03v3 L=0.35u W=0.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM6 Vout1 Vin net2 net2 pfet_03v3 L=0.28u W=0.61u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=3
XM8 Vout Vout2p net3 net3 pfet_03v3 L=0.28u W=0.73u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
V1 net2 VDD 0
.save i(v1)
V2 net1 VDD 0
.save i(v2)
V3 net3 VDD 0
.save i(v3)
XM2 Vout2n Vout1 VSS VSS nfet_03v3 L=0.28u W=0.65u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 Vout2p Vout1 net1 net1 pfet_03v3 L=0.28u W=0.85u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
.ends

.GLOBAL VDD
.end
